US06124323
4-(2-Fluoro-4-methylbenzyl)-1-(2-(4-hydroxyphenoxy)ethyl)piperidine hydrochloride
The title compound was prepared from 4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride (375 mg, 1.54 mmol), 2-(4-hydroxyphenoxy)ethyl bromide (352 mg, 1.62 mmol) and NaHCO3 (265 mg, 3.16 mmol) as a near colorless powder (430 mg): mp 164-165° C.; 1H NMR (CD3OD) 1.51-1.70 (m, 2H), 1.84-2.00 (m, 3H), 2.31 (s, 3H), 2.63 (d, J=5.7 Hz, 2H), 2.94-3.12 (m, 2H), 3.44-3.70 (m, 4H), 4.26 (t, J=4.8 Hz, 2H), 6.74 (d, J=9.3 Hz, 2H), 6.82-6.96 (m, 4H), 7.07-7.14 (m, 1H); Anal. Calcd for C21H27ClFNO2 : C, 66.39; H. 7.16; N, 3.69. Found: C, 66.62; H, 6.99; N, 3.54.

reactant | 4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride | 1.54 mmol, 375 mg | Cl.FC1=C(CC2CCNCC2)C=CC(=C1)C
reactant | 2-(4-hydroxyphenoxy)ethyl bromide | 1.62 mmol, 352 mg | OC1=CC=C(OCCBr)C=C1 | C8H9BrO2
reactant | NaHCO3 | 3.16 mmol, 265 mg | C(=O)(O)[O-].[Na+]
product | 4-(2-Fluoro-4-methylbenzyl)-1-(2-(4-hydroxyphenoxy)ethyl)piperidine hydrochloride | Cl.FC1=C(CC2CCN(CC2)CCOC2=CC=C(C=C2)O)C=CC(=C1)C | InChI=1S/C21H26FNO2.ClH/c1-16-2-3-18(21(22)14-16)15-17-8-10-23(11-9-17)12-13-25-20-6-4-19(24)5-7-20;/h2-7,14,17,24H,8-13,15H2,1H3;1H
